US04012499
B. 4-(5-Tetrazolyl)thioxanthone-10,10-dioxide
4-Cyanothioxanthone-10,10-dioxide (1.35g), sodium azide (0.39g) ammonium chloride (0.32g) and dimethylsulphoxide were heated together at 125°- 130° C. for 6.5 hr. The mixture was cooled, poured into dilute hydrochloric acid and the precipitated product filtered off. It was warmed with 1% sodium bicarbonate solution, filtered, and the filtrate acidified with dilute hydrochloric acid. 4-(5-Tetrazolyl)thioxanthone-10,10-dioxide was filtered off and recrystallised from acetic acid, m.p. 271° C. with decomposition. Found: C 53.50%; H 2.70%; N 18.04%. C14H8N4O3S requires C 53.85%; H 2.58%; N 17.95%.

reactant | 4-Cyanothioxanthone-10,10-dioxide | 1.35g | C(#N)C1=CC=CC=2C(C3=CC=CC=C3S(C12)(=O)=O)=O | C14H7NO3S
reactant | sodium azide | 0.39g | [N-]=[N+]=[N-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylsulphoxide | CS(=O)C | C2H6OS
product | 4-(5-Tetrazolyl)thioxanthone-10,10-dioxide | N1N=NN=C1C1=CC=CC=2C(C3=CC=CC=C3S(C12)(=O)=O)=O | C14H8N4O3S
